US05446040
Example P-12:9.2 g of 6-propionyl-3,4-dihydro-quinolin-2-one-oxime, 10 g ofdry ammonia and 3 g of Raney nickel in 130 ml of absolute methanol are placed in a hydrogenation autoclave. The batch is hydrogenated for 12 hours at a temperature of 50° C. and a pressure of 70 bar. The catalyst is then filtered off and the solvent, as well as the excess NH3, is removed under a water-jet vacuum. Purification is carried outby flash chromatography (eluant: ethanol/ether 1:3), yielding 8.2 g of 6-(1-aminopropyl)-3,4-dihydro-quinolin-2-one.

reactant | 6-propionyl-3,4-dihydro-quinolin-2-one-oxime | 9.2 g | C(CC)(=O)C=1C=C2CCC(NC2=CC1)=NO | C12H14N2O2
reactant | ammonia | 10 g | N | H3N
reactant | methanol | 130 ml | CO | CH4O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 6-(1-aminopropyl)-3,4-dihydro-quinolin-2-one | 8.2 g | NC(CC)C=1C=C2CCC(NC2=CC1)=O | C12H16N2O
